US04171367
N[1(3-Methylbutyl)-3-methyl-5-pyrazolyl]-S-methyl isothiourea hydroiodide
[1-(3-methylbutyl)-3-methyl-5-pyrazolyl]thiourea (23.0 g.) was dissolved in 250 ml. ethanol and 15.62 g. methyl iodide and refluxed for 4 hours. The ethanol was concentrated in vacuum and ether added to get 29.3 g. product, mp 128°-131° C.

reactant | [1-(3-methylbutyl)-3-methyl-5-pyrazolyl]thiourea | 23.0 g | CC(CCN1N=C(C=C1NC(=S)N)C)C | C10H18N4S
reactant | methyl iodide | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | N[1(3-Methylbutyl)-3-methyl-5-pyrazolyl]-S-methyl isothiourea hydroiodide | I.CC(CCN1N=C(C=C1NC(SC)=N)C)C | InChI=1S/C11H20N4S.HI/c1-8(2)5-6-15-10(7-9(3)14-15)13-11(12)16-4;/h7-8H,5-6H2,1-4H3,(H2,12,13);1H
